US05834501
2-Hydroxymethyl-3H-imidazo[5,4-d]pyrimidine
8.58 g of ethyl glycolate were added to 2.27 g of 4,5-diaminopyrimidine, and the resulting mixture was stirred at 140° C. for 2 hours. At the end of this time, the reaction mixture was freed from ethyl glycolate by distillation under reduced pressure. The residue thus obtained was decolorized by activated charcoal and crystallized by trituration with ethanol, to give 1.81 g of the title compound having Rf=0.27 (on silica gel thin layer chromatography using a 10:1 by volume mixture of ethyl acetate and methanol as the developing solvent).

reactant | ethyl glycolate | 8.58 g | C(CO)(=O)OCC | C4H8O3
reactant | 4,5-diaminopyrimidine | 2.27 g | NC1=NC=NC=C1N | C4H6N4
reactant | charcoal | C | CH4
product | 2-Hydroxymethyl-3H-imidazo[5,4-d]pyrimidine | 1.81 g | OCC=1NC=2N=CN=CC2N1 | C6H6N4O
